US06635763B2
(±)-(2-chlorophenyl)-(6,7-dihydro-4H-thieno[3,2-c]pyrid-5-yl)acetonitrile (IV)
123.83 g (880 mmol) o-chlorobenzaldehyde and 44 g (897 mmol) sodium cyanide were added to in 100 mL of methanol and water (1:1) mixture. To this 150 g (1070 mmol) 6,7-dihydro-4H-thieno[3,2-c]pyridine was added, followed by the addition of 10 mL concentrated hydrochloric acid and was stirred for 2 days at 31° C. temperature. The pH of reaction mixture was adjusted to 7.5-8.0 using NH4OH. The product was extracted with ethyl acetate (2×50 mL) and washed with water (2×50 mL), brine (50 mL) and was dried over sodium sulfate, and isolated as given in Example 1. The amount of white solid product obtained was 33 g (13%), which was characterized as usual.

reactant | o-chlorobenzaldehyde | 880 mmol, 123.83 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | sodium cyanide | 897 mmol, 44 g | [C-]#N.[Na+]
reactant | 6,7-dihydro-4H-thieno[3,2-c]pyridine | 1070 mmol, 150 g | S1C=CC=2CNCCC21 | C7H9NS
reactant | hydrochloric acid | 10 mL | Cl | ClH
reactant | NH4OH | [NH4+].[OH-]
solvent | methanol | 100 mL | CO | CH4O
solvent | water | O | H2O
product | (±)-(2-chlorophenyl)-(6,7-dihydro-4H-thieno[3,2-c]pyrid-5-yl)acetonitrile | ClC1=C(C=CC=C1)C(C#N)N1CC2=C(CC1)SC=C2 | C15H13ClN2S
